US07294650B2
ii) 6-Iodo-2,3-dihydro-1-benzothiophene 1,1-dioxide
A mixture of 2,3-dihydro-1-benzothiophen-6-amine 1,1-dioxide (1.1 g) 2M hydrochloric acid (14 ml) was cooled in an ice-bath. Sodium nitrite (355 mg) in water (5 ml) was added dropwise and the mixture was stirred for 15 min before aqueous potassium iodide (830 mg) was added. The mixture was stirred overnight, before it was heated to 65° C. for 0.5 h. The mixture was cooled to 20° C. and extracted into ethyl acetate. The organic solution was washed with aqueous sodium metabisulfite solution, brine, dried and purified on two SPE silica cartridges (10 g) eluting with dichloromethane, diethyl ether and ethyl acetate. The dichloromethane fractions were combined and evaporated to give the title compound (550 mg) LCMS RT=2.65 min.

reactant | 2,3-dihydro-1-benzothiophen-6-amine 1,1-dioxide | 2M, 14 ml, 1.1 g | S1(CCC2=C1C=C(C=C2)N)(=O)=O | C8H9NO2S
reactant | Sodium nitrite | 355 mg | N(=O)[O-].[Na+]
reactant | potassium iodide | 830 mg | [I-].[K+]
solvent | water | 5 ml | O | H2O
product | 6-Iodo-2,3-dihydro-1-benzothiophene 1,1-dioxide | 550 mg | IC1=CC2=C(CCS2(=O)=O)C=C1 | C8H7IO2S
